US09108936B2
2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (468 mg, 0.75 mmol) is added to a stirred solution of 4-bromo-N-[(4-chlorophenyl)-methyl]-2-fluoro-6-methoxy-benzamide (2.8 g, 7.52 mmol), morpholine (0.92 g, 10.5 mmol) and sodium tert-butoxide (0.94 g, 9.78 mmol) in toluene (90 ml) and the mixture is degassed and flushed with argon for 45 min. Tris(dibenzylideneacetone)-dipalladium(0) (344 mg, 0.38 mmol) is added and the mixture is heated at 120° C. for 16 h. The mixture is cooled to room temperature and diluted with water (50 ml). The mixture is extracted with ethyl acetate (2×30 ml). The combined organic layers are washed with water (30 ml), brine (40 ml), dried over anhydrous sodium sulfate and evaporated to get the crude which is purified by column chromatography (silica gel, 5% ethyl acetate/dichloromethane) to yield N-[(4-chlorophenyl)-methyl]-2-fluoro-6-methoxy-4-morpholin-4-yl-benzamide (1.3 g, 3.2 mmol, 33%).

reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.75 mmol, 468 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 4-bromo-N-[(4-chlorophenyl)-methyl]-2-fluoro-6-methoxy-benzamide | 7.52 mmol, 2.8 g | BrC1=CC(=C(C(=O)NCC2=CC=C(C=C2)Cl)C(=C1)OC)F | C15H12BrClFNO2
reactant | morpholine | 10.5 mmol, 0.92 g | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 9.78 mmol, 0.94 g | CC(C)([O-])C.[Na+]
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
catalyst | Tris(dibenzylideneacetone)-dipalladium(0) | 0.38 mmol, 344 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(4-chlorophenyl)-methyl]-2-fluoro-6-methoxy-4-morpholin-4-yl-benzamide | 3.2 mmol, 1.3 g, 33% | ClC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1OC)N1CCOCC1)F)=O | C19H20ClFN2O3
